US05866594
Synthesis of methyl 1-acetyl-4,7-dimethylindole-2-carboxylate (compound 80)
A suspension of 0.11 g (4.13 mmol) of sodium hydride in 10 ml of anhydrous DMF was prepared. A solution of 0.8 g (3.94 mmol) of 4,7-dimethylindole-2-carboxylate in 10 ml of anhydrous DMF was added thereto dropwise at 0° C. over a period of 30 minutes and the reaction mixture was stirred for 1 hour. Then a solution of 0.47 g (4.33 mmol) of acetyl chloride in 0.4 ml of anhydrous DMF was added dropwise, and the reaction mixture was stirred at room temperature for 12 hours. The reaction mixture was added dropwise to 300 ml of ice water, acidified with 1N HCl aqueous solution and extracted with ethyl acetate three times. The ethyl acetate solutions were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to provide 212 mg of white crystals.

reactant | sodium hydride | 4.13 mmol, 0.11 g | [H-].[Na+]
reactant | 4,7-dimethylindole-2-carboxylate | 3.94 mmol, 0.8 g | CC1=C2C=C(NC2=C(C=C1)C)C(=O)[O-]
reactant | acetyl chloride | 4.33 mmol, 0.47 g | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 1N | Cl | ClH
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 0.4 ml | CN(C)C=O | C3H7NO
product | methyl 1-acetyl-4,7-dimethylindole-2-carboxylate | 212 mg, Yield: 22% | C(C)(=O)N1C(=CC2=C(C=CC(=C12)C)C)C(=O)OC | C14H15NO3
